US05250216
1,4-Diiodobenzene (2.5 g, 7.57 mmol) was added to diethylamine (80 ml) in nitrogen gas stream, followed by agitating the mixture at room temperature, successively adding copper iodide (60 mg) and dichlorobis(triphenylphosphine)palladium(II) (100 mg), adding 4-propylphenylacetylene (4.37 g, 30 mmol) in several steps, agitating the reaction mixture at room temperature overnight, adding water (200 ml), extracting the resulting deposited crystals with toluene (100 ml), washing the toluene solution with dilute hydrochloric acid, water, an aqueous solution of sodium hydrogen sulfate and water in this order, drying the solution on anhydrous sodium sulfate, passing it through a short column of activated alumina, distilling off toluene and recrystallizing the residue from ethyl acetate to obtain the objective 1,4-bis-(4-propylphenyl-ethynyl)benzene (1.92 g, 5.3 mmol). This product exhibited liquid crystal phases. C-N point: 179.1° C. N-I point: 245.5° C.

reactant | 1,4-Diiodobenzene | 7.57 mmol, 2.5 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | diethylamine | 80 ml | C(C)NCC | C4H11N
reactant | 4-propylphenylacetylene | 30 mmol, 4.37 g | C(CC)C1=CC=C(C=C1)C#C | C11H12
catalyst | copper iodide | 60 mg | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 200 ml | O | H2O
product | 1,4-bis-(4-propylphenyl-ethynyl)benzene | 5.3 mmol, 1.92 g | C(CC)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCC | C28H26
